US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-isobutoxy-ethyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-isobutoxyethanol according to the procedure of Example 1 as a colorless oil; 1H NMR (300 MHz, CDCl3): δ 0.70-0.95 (m, 12H), 1.10-2.0 (complexm, 11H), 3.09-3.29 (m, 4H), 3.51-3.58 (m, 1H), 3.60-3.72 (m, 4H), 4.31-4.48 (m, 2H), 6.70-7.00 (m, 4H), 7.15-7.50 (m, 4H); MS (ES) m/z (relative intensity): 622 (M+ -HCl, 100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-isobutoxyethanol | C(C(C)C)OCCO | C6H14O2
reactant | HCl | Cl | ClH
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-isobutoxy-ethyl) ester | C(C(C)C)OCCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCOCC(C)C | C32H44ClNO9
